US06573293B2
A solution of 5-chlorosufonyl-2-oxindole (3 g) and 3-aminopyridine (1.46 g) in pyridine (15 mL) was stirred at room temperature overnight at which time a brown solid was present. The solid was filtered, washed with ethanol and dried under vacuum to yield 1.4 g (38%) of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid pyridin-3-ylamide.

reactant | 5-chlorosufonyl-2-oxindole | 3 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | 3-aminopyridine | 1.46 g | NC=1C=NC=CC1 | C5H6N2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid pyridin-3-ylamide | 1.4 g, 38% | N1=CC(=CC=C1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C13H11N3O3S
